US04695573
6-Chloro-9-(4-fluorobenzylamino)-1,2,3,4,-tetrahydroacridin-1-ol
In 100 ml of dry THF was added 4.06 g of 6-chloro-3,4-dihydro-9-(4-fluorobenzylamino)acridin-1(2H)-one and the mechanically stirred solution was cooled to 10° C. under a nitrogen atmosphere. To the reaction was added 5.8 ml of 1M LiAlH4 in THF over 15 minutes. After 1/2 hour the reaction was complete by TLC analysis, so it was quenched with 1 ml of saturated ammonium chloride solution and the inorganic salts were filtered off. The filtrate was evaporated to a solid which was recrystallized from dichloromethane to yield 3.18 g of solid. The compound went through a crystal structure change at 176°-177° C. before melting at 187°-188° C.

reactant | 6-chloro-3,4-dihydro-9-(4-fluorobenzylamino)acridin-1(2H)-one | 4.06 g | ClC=1C=C2N=C3CCCC(C3=C(C2=CC1)NCC1=CC=C(C=C1)F)=O | C20H16ClFN2O
reactant | LiAlH4 | 1M, 5.8 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 6-Chloro-9-(4-fluorobenzylamino)-1,2,3,4,-tetrahydroacridin-1-ol | 3.18 g | ClC=1C=C2N=C3CCCC(C3=C(C2=CC1)NCC1=CC=C(C=C1)F)O | C20H18ClFN2O
